US07745475B2
Ethyl 3-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate
Cesium carbonate (8.3 g, 25.4 mmol) was added to a mixture of 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (3.7 g, 12.7 mmol) and ethyl-3,4-difluorobenzoate (2.36 g, 12.7 mmol) in dimethylacetamide (60 mL) and the stirred mixture heated at 115° C. for 3 hours. The mixture was allowed to cool to RT and ethyl acetate (100 mL) added. The mixture was washed with water (5×40 mL), brine (40 mL), dried (MgSO4), filtered, and reduced in vacuo. The residue was chromatographed on silica, eluting with 50% ethyl acetate in isohexane, to give the desired compound (1.8 g).

reactant | Cesium carbonate | 25.4 mmol, 8.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 12.7 mmol, 3.7 g | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C | C14H17N3O4
reactant | ethyl-3,4-difluorobenzoate | 12.7 mmol, 2.36 g | C(C)OC(C1=CC(=C(C=C1)F)F)=O | C9H8F2O2
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 60 mL | CC(=O)N(C)C | C4H9NO
product | Ethyl 3-fluoro-4-(3-[(1S)-2-hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate | 1.8 g | FC=1C=C(C(=O)OCC)C=CC1OC1=CC(=CC(=C1)C(=O)NC1=NN(C=C1)C)O[C@H](CO)C | C23H24FN3O6
